US08114886B2
5-[[[Tert-butyl(diphenyl)silyl]oxy](2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide
To a solution of 2-bromo-5-[[[tert-butyl(diphenyl)silyl]oxy](2,3,6-trifluoro phenyl)methyl]-4-methylpyridine (75.6 g, 133 mmol) in toluene (1200 ml), a hexane solution of n-butyllithium (1.60 M, 99.4 ml, 159 mmol) was added in an argon atmosphere at −78° C. The reaction mixture was stirred for 30 minutes at −50° C., and then cooled again to −78° C., and carbon dioxide was bubbled therein. After stirring for 30 minutes at the same temperature, the reaction mixture was allowed to warm to 0° C., water and then 1 N hydrochloric acid were added thereto, and the mixture was concentrated under reduced pressure. Ethyl acetate was added to the resulting residue, and the organic layer was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (1000 ml), and isobutyl chlorocarbonate (25.3 ml, 195 mmol) and then triethylamine (36.2 ml, 260 mmol) were added thereto at −5° C. After stirring the mixture for 30 minutes at the same temperature, a 7 N methanol solution of ammonia (100 ml, 700 mmol) was added, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and water were added to the resulting residue. After the organic layer was separated, the organic layer was washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate and then saturated brine, and the organic layer was dried over anhydrous sodium sulfate and filtered. Subsequently, the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel chromatography, and the fraction obtained from an elution with hexane:ethyl acetate=1:1 was concentrated under reduced pressure to obtain the title compound (50.0 g, 93.5 mmol, 70%) as a pale brown oily substance.

reactant | 2-bromo-5-[[[tert-butyl(diphenyl)silyl]oxy](2,3,6-trifluoro phenyl)methyl]-4-methylpyridine | 133 mmol, 75.6 g | BrC1=NC=C(C(=C1)C)C(C1=C(C(=CC=C1F)F)F)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C29H27BrF3NOSi
reactant | n-butyllithium | 159 mmol, 1.60 M, 99.4 ml | C(CCC)[Li]
reactant | isobutyl chlorocarbonate | 195 mmol, 25.3 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | triethylamine | 260 mmol, 36.2 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | 700 mmol, 100 ml | N | H3N
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 7 N | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 5-[[[Tert-butyl(diphenyl)silyl]oxy](2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide | 93.5 mmol, 50.0 g, 70% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C=1C(=CC(=NC1)C(=O)N)C)C1=C(C(=CC=C1F)F)F | C30H29F3N2O2Si
